US04277609
dl-[(2-Hydroxy-2-phenylethyl)amino]acetonitrile, hydrochloride
Combine dl-2-amino-1-phenylethanol (5.49 g.; 0.04 moles) with water (60 ml)and 5 N aqueous HCl (8 ml; 0.04 moles) then stir until clear. Add 37% aqueous formaldehyde solution (4 ml), then with stirring drip in a solution of potassium cyanide (2.61 g.; 0.04 moles) in water (20 ml). Stira further 3 hours at room temperature then add diethyl ether and let stand overnight. Extract with diethyl ether, wash, dry and evaporate the solventin vacuo. Purify the resulting oil and convert to the HCl salt as in the preceding paragraph to obtain 4.10 g. of the title product, m.p.=146°-148° C.

reactant | dl-2-amino-1-phenylethanol | 0.04 moles, 5.49 g | C1=CC=C(C=C1)C(CN)O | C8H11NO
reactant | HCl | 0.04 moles, 5 N, 8 ml | Cl | ClH
reactant | formaldehyde | 4 ml | C=O | CH2O
reactant | potassium cyanide | 0.04 moles, 2.61 g | [C-]#N.[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | [(2-Hydroxy-2-phenylethyl)amino]acetonitrile, hydrochloride | Cl.OC(CNCC#N)C1=CC=CC=C1 | InChI=1S/C10H12N2O.ClH/c11-6-7-12-8-10(13)9-4-2-1-3-5-9;/h1-5,10,12-13H,7-8H2;1H
